US07208494B2
e) 5-Methyl-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester
A solution of 4.0 g (13.1 mmol) 5-hydroxy-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester in 100 mL dichloromethane was cooled to 0° C. and 2.2 mL (1.6 g, 15.7 mmol) triethylamine and 2.6 mL (4.4 g, 15.7 mmol) trifluoromethanesulfonic acid were added. After 2 h at 0° C. the reaction was poured into 10% aqueous sodium bicarbonate solution and extracted with dichloromethane. The organic layer was washed with brine, dried over magnesium sulfate and evaporated. The residue was dissolved in 100 mL tetrahydrofuran and 0.75 g (0.65 mmol) tetrakis(triphenylphosphine)palladium (0) and 13.1 mL trimethylaluminium (2M solution in n-heptane) were added. The reaction mixture was heated to reflux for 2 h and after cooling to room temperature poured into ethyl acetate and water, filtered through speedex and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, filtered and evaporated. The residue was purified by column chromatography over silica gel (0.030–0.063 mm) with ethyl acetate:n-hexane (1:1) as eluant to give the product as a light yellow solid (64.5%).

reactant | 5-hydroxy-pyrrolo[2,3-b]pyridine-1,2-dicarboxylic acid 1-tert-butyl ester 2-ethyl ester | 13.1 mmol, 4.0 g | CCOC(=O)C1=CC=2C(=NC=C(C2)O)N1C(=O)OC(C)(C)C | C15H18N2O5
reactant | triethylamine | 15.7 mmol, 2.2 mL, 1.6 g | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic acid | 15.7 mmol, 2.6 mL, 4.4 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | trimethylaluminium | 2M, 13.1 mL | C[Al](C)C
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium | 0.65 mmol, 0.75 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Methyl-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid ethyl ester | 64.5% | C(C)OC(=O)C1=CC=2C(=NC=C(C2)C)N1 | C11H12N2O2
